US05663346
5-(4-hydroxyethyl-1-piperazinylmethyl)-3-[(7-azaindol-3-yl) methylene]-2-oxindole hydrochloride.
A mixture of 5-(chloromethyl)-3-[(7-azaindol-3-yl) methylene]-2-oxindole (3.098 g, 10 mmol), 4-hydroxyethyl-piperazine (2.604 g, 20 mmol) in 1N NaOH (20 ml, 20 mmol) was refluxed for 48 h. The cooled reaction mixture was extracted with ether, and the ether extract was shaken with diluted hydrochloric acid. The aqueous acid layer was made alkaline with potassium carbonate and extracted with ether. Addition of hydrogen chloride to the dried ether extract precipitated a crude hydrochloride which was crystallized twice from a mixture of methanol and ether.

reactant | 5-(chloromethyl)-3-[(7-azaindol-3-yl) methylene]-2-oxindole | 10 mmol, 3.098 g | ClCC=1C=C2C(C(NC2=CC1)=O)=CC1=CNC2=NC=CC=C12 | C17H12ClN3O
reactant | 4-hydroxyethyl-piperazine | 20 mmol, 2.604 g | OCCN1CCNCC1 | C6H14N2O
reactant | NaOH | 20 mmol, 1N, 20 ml | [OH-].[Na+]
product | 5-(4-hydroxyethyl-1-piperazinylmethyl)-3-[(7-azaindol-3-yl) methylene]-2-oxindole hydrochloride | Cl.OCCN1CCN(CC1)CC=1C=C2C(C(NC2=CC1)=O)=CC1=CNC2=NC=CC=C12 | InChI=1S/C23H25N5O2.ClH/c29-11-10-27-6-8-28(9-7-27)15-16-3-4-21-19(12-16)20(23(30)26-21)13-17-14-25-22-18(17)2-1-5-24-22;/h1-5,12-14,29H,6-11,15H2,(H,24,25)(H,26,30);1H
